### ISSUE TITLE
[`LinearAlgebra/Matrix/Hermitian`] Sylvester's criterion

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#106]
[Wikipedia](https://en.wikipedia.org/wiki/Sylvester's_criterion)

```lean
/-- **Sylvester's criterion**: A Hermitian matrix is positive semidefinite iff all of its principal
minors are non-negative. -/
theorem IsHermitian.posSemidef_iff {n R : Type*} [CommRing R] [PartialOrder R] [StarRing R]
    {M : Matrix n n R} (h : M.IsHermitian) :
    M.PosSemidef ↔ ∀ (k : ℕ), (f : Fin k → n) → 0 ≤ (M.submatrix f f).det := by
  sorry

/-- **Sylvester's criterion**: A Hermitian matrix is positive definite iff all of its principal
minors are positive. -/
theorem IsHermitian.posDef_iff {n R : Type*} [CommRing R] [PartialOrder R] [StarRing R]
    {M : Matrix n n R} (h : M.IsHermitian) :
    M.PosDef ↔ ∀ (k : ℕ), (f : Fin k → n) → 0 < (M.submatrix f f).det := by
  sorry

/-- **Sylvester's criterion**: A Hermitian matrix is positive definite iff all of its leading
principal minors are positive. -/
theorem IsHermitian.posDef_fin_iff {n : ℕ} {R : Type*} [CommRing R] [PartialOrder R] [StarRing R]
    {M : Matrix (Fin n) (Fin n) R} (h : M.IsHermitian) :
    M.PosDef ↔ ∀ (k : ℕ) (h : k ≤ n), 0 < (M.submatrix (.castLE h) (.castLE h)).det := by
  sorry
```
Wikipedia says that for semidefinite it isn't sufficient to consider just the leading principal minors.
